US07122545B2
To a suspension of 0.04 g 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine hydrochloride in 3.4 ml tetrahydrofurane were added at 0–4° C. 0.09 ml N-ethyldiisopropylamine and 0.017 g 2-chloromethyl-isonicotinoyl chloride hydrochloride. The mixture was refluxed for 17 hours, silicagel was added and the solvent was distilled off. The residue was transferred to a column prefilled with silicagel and was chromatographed with dichloromethane/methanol 96:4 to yield 0.037 g (68%) (2-chloromethyl-pyridin-4-yl)-[2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepin-6-yl]-methanone as yellow solid; MS (ISP): m/e=540 (M+H+).

reactant | 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine hydrochloride | 0.04 g | Cl.COC1=CC=C(C2=C1N=C(S2)C2=NC1=C(CCNCC1)N2)N2CCOCC2
reactant | N-ethyldiisopropylamine | 0.09 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloromethyl-isonicotinoyl chloride hydrochloride | 0.017 g | Cl.ClCC=1C=C(C(=O)Cl)C=CN1
solvent | tetrahydrofurane | 3.4 ml | O1CCCC1 | C4H8O
product | (2-chloromethyl-pyridin-4-yl)-[2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepin-6-yl]-methanone | 0.037 g, 68% | ClCC1=NC=CC(=C1)C(=O)N1CCC2=C(CC1)N=C(N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C26H27ClN6O3S
